* Schematics Netlist *



V_V2         $N_0001 0 6.0V
R_R1         $N_0001 $N_0002  5.0k  
R_R2         $N_0002 $N_0003  9.5k  
R_R3         $N_0003 0  2.5k  
